US07763731B2
4-Chloro-1-(4-isopropyl-phenoxy)-2-nitro-benzene
1-Bromo-4-chloro-2-nitrobenzene (12 g, 50.7 mmol) was added to a solution of 4-isopropylphenol (8.3 g, 60.8 mmol), and K2CO3 (14.0 g, 101 mmol) in DMF (70 mL). The mixture was heated at 80° C. for 16 h. The reaction was poured into water. The aqueous phase was extracted with ethyl acetate and the combined phases were washed with water, brine, and dried over sodium sulfate, filtered and concentrated under vacuum giving the crude title compound. The crude product was purified by silica gel chromatography eluting with (hexanes/ethyl acetate 90:10) to give the title compound (13.5 g, 92%).

reactant | 1-Bromo-4-chloro-2-nitrobenzene | 50.7 mmol, 12 g | BrC1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C6H3BrClNO2
reactant | 4-isopropylphenol | 60.8 mmol, 8.3 g | C(C)(C)C1=CC=C(C=C1)O | C9H12O
reactant | K2CO3 | 101 mmol, 14.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 70 mL | CN(C)C=O | C3H7NO
product | 4-Chloro-1-(4-isopropyl-phenoxy)-2-nitro-benzene | 13.5 g, 92% | ClC1=CC(=C(C=C1)OC1=CC=C(C=C1)C(C)C)[N+](=O)[O-] | C15H14ClNO3
